US07462617B2
1-{4-[4-(2-Chloro-5-tetrazol-1-yl-benzoyl)-piperazin-1-yl]-3-fluoro-phenyl}-ethanone
The title compound was prepared according to the procedure E described for example 2 from 1-(3-Fluoro-4-piperazin-1-yl-phenyl)-ethanone and 2-Chloro-5-tetrazol-1-yl-benzoic acid (CAS: 190270-10-1; commercial) (50%, white solid, M+H: 429.2)

reactant | 1-(3-Fluoro-4-piperazin-1-yl-phenyl)-ethanone | FC=1C=C(C=CC1N1CCNCC1)C(C)=O | C12H15FN2O
reactant | 2-Chloro-5-tetrazol-1-yl-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)N1N=NN=C1 | C8H5ClN4O2
product | 1-{4-[4-(2-Chloro-5-tetrazol-1-yl-benzoyl)-piperazin-1-yl]-3-fluoro-phenyl}-ethanone | ClC1=C(C(=O)N2CCN(CC2)C2=C(C=C(C=C2)C(C)=O)F)C=C(C=C1)N1N=NN=C1 | C20H18ClFN6O2
